US07247748B2
e) 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-N,N-dimethyl-benzamide
A solution of 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzoic acid (0.023 g, 0.041 mmol) in acetonitrile (3 ml) was treated with BOP reagent (0.02 g, 0.04 mmol) followed by triethylamine (0.013 mL, 0.09 mmol). To the mixture was added (CH3)2NH2.HCl (4 mg, 0.045 mmol), and the reaction was stirred at ambient temperature overnight. The reaction mixture was then concentrated in-vacuo to afford an oil. The crude product was then dissolved in DMSO and purified via reverse-phase HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile:H2O, UV detection at 254 nm) to afford the title compound, 186 mg (77%); MS (ESI) m/e 596 [M+H]+.

reactant | 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-benzoic acid | 0.041 mmol, 0.023 g | ClC1=C(CN(CCCOC2=CC=C(C(=O)O)C=C2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C32H29ClF3NO3
reactant | BOP reagent | 0.04 mmol, 0.02 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.09 mmol, 0.013 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 0.045 mmol, 4 mg | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-N,N-dimethyl-benzamide | ClC1=C(CN(CCCOC2=CC=C(C(=O)N(C)C)C=C2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C34H34ClF3N2O2
